US09108895B2
A solution of 18.0 wt % 2,2,4,4-tetramethylcyclobutane-1,3-dione and 3.90 wt % isobutyric acid in isobutyl isobutyrate was added to the reactor system containing 405 mL of a 2 wt % Ru-0.5 wt % Re-0.025 wt % Sn on alumina catalyst at a rate of 20 mL/min. The pressure at the top of the reactor was maintained at 500 psig and the temperature at the top of the catalyst bed was 128° C. These conditions were maintained for 24 hours. The average conversion of the dione was 98.4%. 2,2,4,4-Tetramethylcyclobutane-1,3-diol (16.5 wt %) was obtained at a rate of 24.8 lb/ft3 catalyst/hr (3.50 mmol/g/hr). The average conversion of isobutyric acid was 44.4% (0.592 mmol/g-hr).

reactant | 2,2,4,4-tetramethylcyclobutane-1,3-dione | CC1(C(C(C1=O)(C)C)=O)C | C8H12O2
reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
solvent | isobutyl isobutyrate | C(C(C)C)(=O)OCC(C)C | C8H16O2
product | 2,2,4,4-Tetramethylcyclobutane-1,3-diol | CC1(C(C(C1O)(C)C)O)C | C8H16O2
